US07652015B2
1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(6-piperazin-1-yl-pyridin-3-yl)-urea
Place 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester (565 mg, 1.06 mmol) in THF (10 mL). Add 4 M HCl in dioxane (2.65 mL, 10.6 mmol) and heat to 60° C. for 3 hours. Cool the reaction to room temperature and load onto a Varian™ SCX column. Wash the column with MeOH and then flush off the product with 2 M NH3 in MeOH.

reactant | 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | 1.06 mmol, 565 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C29H39N7O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 10.6 mmol, 2.65 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(6-piperazin-1-yl-pyridin-3-yl)-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=CC1)N1CCNCC1 | C24H31N7O
